US07576074B2
To a solution of 2-{[4-[(3,4-dichlorophenyl)amino]-6-(methyloxy)quinazolin-7-yl]oxy}ethanethioamide (0.300 g, 0.733 mmol) in DMF (5 mL) was added 1,1-dimethylethyl 3-bromo-4-oxopiperidine-1-carboxylate (0.310 g, 1.11 mmol). The solution was stirred at 60° C. for 72 h. An additional 0.100 g (0.360 mmol) of 1,1-dimethylethyl 3-bromo-4-oxopiperidine-1-carboxylate was added to the reaction mixture, which was then heated at 60° C. for an additional 24 h. The solvent was removed in vacuo and the crude reaction mixture was purified via column chromatography (SiO2, 50% hexanes/ethyl acetate). This intermediate was then subjected to 10% TFA in CH2Cl2 at room temperature. After removal of the solvent, the crude amine salt was taken up in fresh MeOH and treated with Bio-Rad AG 1-X8 resin hydroxide form until pH 8. Filtration and concentration in vacuo provided 0.247 g (69%) of N-(3,4-dichlorophenyl)-6-(methyloxy)-7-[(4,5,6,7-tetrahydro[1,3]thiazolo[5,4-c]pyridin-2-ylmethyl)oxy]quinazolin-4-amine as a brown oil.

reactant | 2-{[4-[(3,4-dichlorophenyl)amino]-6-(methyloxy)quinazolin-7-yl]oxy}ethanethioamide | 0.733 mmol, 0.300 g | ClC=1C=C(C=CC1Cl)NC1=NC=NC2=CC(=C(C=C12)OC)OCC(N)=S | C17H14Cl2N4O2S
reactant | 1,1-dimethylethyl 3-bromo-4-oxopiperidine-1-carboxylate | 1.11 mmol, 0.310 g | BrC1CN(CCC1=O)C(=O)OC(C)(C)C | C10H16BrNO3
reactant | 1,1-dimethylethyl 3-bromo-4-oxopiperidine-1-carboxylate | 0.360 mmol, 0.100 g | BrC1CN(CCC1=O)C(=O)OC(C)(C)C | C10H16BrNO3
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-(3,4-dichlorophenyl)-6-(methyloxy)-7-[(4,5,6,7-tetrahydro[1,3]thiazolo[5,4-c]pyridin-2-ylmethyl)oxy]quinazolin-4-amine | 0.247 g, 69% | ClC=1C=C(C=CC1Cl)NC1=NC=NC2=CC(=C(C=C12)OC)OCC=1SC=2CNCCC2N1 | C22H19Cl2N5O2S
